US08309721B2
1.91 g of 3-bromo-5-benzyloxypyridine, under argon, are added to a solution of 2 ml of triisopropyl borate in a mixture of 12 ml of toluene and 3 ml of tetrahydrofuran. The solution is cooled to −70° C. and then 5.42 ml of n-butyllithium (1.6N in hexane) are added dropwise. The reaction medium is stirred for 3 hours, and brought back to −20° C., and 7.23 ml of 2N hydrochloric acid are added dropwise. The reaction mixture is left to return to ambient temperature and poured into distilled water. The aqueous phase is extracted with ethyl acetate, and then the organic phase is washed with a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure, so as to give 0.21 g of [5-(benzyloxy)pyridin-3-yl]boronic acid in the form of a white powder (adapted from Wenjie Li et al. An Improved Protocol for the Preparation of 3-Pyridyl- and Some Arylboronic Acids J. Org. Chem., (2002), 67(15), 5394-5397), the characteristics of which are the following:

reactant | 3-bromo-5-benzyloxypyridine | 1.91 g | BrC=1C=NC=C(C1)OCC1=CC=CC=C1 | C12H10BrNO
reactant | triisopropyl borate | 2 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | 1.6N, 5.42 ml | C(CCC)[Li]
reactant | hydrochloric acid | 2N, 7.23 ml | Cl | ClH
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | [5-(benzyloxy)pyridin-3-yl]boronic acid | 0.21 g | C(C1=CC=CC=C1)OC=1C=C(C=NC1)B(O)O | C12H12BNO3
